US07470699B2
To a solution of 4,6-dichloro-5-cyclopropyl-pyrimidine (700 mg, 3.70 mmol) and 4-hydroxy-piperidine-1-carboxylic acid isopropyl ester (636.6 mg, 3.70 mmol) in dry THF under nitrogen at 0° C., potassium tert-butoxide (1M solution in THF, 4.45 mL) was added dropwise. The reaction was stirred at rt for 30 min. The mixture was quenched with water and extracted with EtOAc (3×). The organic layer was washed with water, sat. NH4Cl and brine, followed by drying over sodium sulfate and concentration under vacuo. The resulting oil was purified by flash chromatography (0-20% EtOAc/Hexanes) to afford 4-(6-chloro-5-cyclopropyl-pyrimidin-4-yloxy)-piperidine-1-carboxylic acid isopropyl ester (0.927 g, 73.7%) as colorless oil. Exact mass calculated for C16H22ClN3O3 339.13, found 340.3 (MH+).

reactant | 4,6-dichloro-5-cyclopropyl-pyrimidine | 3.70 mmol, 700 mg | ClC1=NC=NC(=C1C1CC1)Cl | C7H6Cl2N2
reactant | 4-hydroxy-piperidine-1-carboxylic acid isopropyl ester | 3.70 mmol, 636.6 mg | C(C)(C)OC(=O)N1CCC(CC1)O | C9H17NO3
reactant | potassium tert-butoxide | 1M, 4.45 mL | CC(C)([O-])C.[K+]
solvent | THF | C1CCOC1 | C4H8O
product | 4-(6-chloro-5-cyclopropyl-pyrimidin-4-yloxy)-piperidine-1-carboxylic acid isopropyl ester | 0.927 g, 73.7% | C(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1C1CC1)Cl | C16H22ClN3O3
